US06613948B1
DE-A 3 420 796 describes a process for the preparation of 2,3,4,5-tetrafluorobenzene derivatives, in which 2,3,4,5-tetrachlorobenzene derivatives are reacted with potassium fluoride in a solvent at elevated temperature. Using 2,3,4,5-tetrachlorobenzoyl fluoride as starting material and continuously distilling off the mixture of the fluorination products at from 800 to 500 mbar produces, after fractional distillation of the mixture of the fluorination products, the desired 2,3,4,5-tetrafluorobenzoyl fluoride in a yield of only 10% of theory, while significantly more undesired fluorination products are obtained, namely 2,3,4-trifluoro-5-chlorobenzoyl fluoride in a yield of 43% of theory and 2,4-difluoro-3,5-dichlorobenzoyl fluoride in a yield of 14% of theory (see Example 2 in DE-A). If 2,3,4,5-tetrachlorobenzonitrile is used as starting material and the fluorination mixture is subjected to fractional distillation, the ratios are obviously similar, although no information concerning the amounts of the tetrafluoro-, tetrafluorochloro- and difluorodichlorobenzonitriles obtained is given (see Example 5 in DE-A).

reactant | 2,3,4,5-tetrafluorobenzene | FC1=CC=C(C(=C1F)F)F | C6H2F4
reactant | 2,3,4,5-tetrachlorobenzene | ClC1=CC=C(C(=C1Cl)Cl)Cl | C6H2Cl4
reactant | potassium fluoride | [F-].[K+]
reactant | 2,3,4,5-tetrachlorobenzoyl fluoride | ClC1=C(C(=O)F)C=C(C(=C1Cl)Cl)Cl | C7HCl4FO
product | 2,3,4,5-tetrafluorobenzoyl fluoride | yield of 43% | FC1=C(C(=O)F)C=C(C(=C1F)F)F | C7HF5O
